US04461907
4-Acetylamino-2'-hydroxychalcone (7.20 g.), was boiled under reflux with acetic acid (100 ml) and concentrated hydrochloric acid (25 ml.) for 7 hrs. The clear solution of 4'-aminoflavanone hydrochloride was treated under a nitrogen atmosphere with amalgamated zinc (from zinc powder (40 g.) and mercuric chloride (0.8 g.)) and stirred at room temperature for 4 hrs. The residual zinc was filtered off and washed with acetic acid. The combined washings and filtrate were neutralised to bicarbonate solution, and the oily product extracted into dichloromethane. The solution was chromatographed on neutral alumina, eluting with dichloromethane and the first fraction evaporated giving the solid 4'-aminoflavan, which was recrystallised from boiling 60°-80° C. petroleum ether, cooling to -10° C., yielding 180 mg., m.p. 85°-87° C.

reactant | 4-Acetylamino-2'-hydroxychalcone | 7.20 g | C(C)(=O)NC1=CC=C(C=C1)C=CC(=O)C1=C(C=CC=C1)O | C17H15NO3
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | 4'-aminoflavanone hydrochloride | Cl.NC1=CC=C(C2OC3=CC=CC=C3C(C2)=O)C=C1
catalyst | zinc | 40 g | [Zn] | Zn
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4'-aminoflavan | NC1=CC=C(C2OC3=CC=CC=C3CC2)C=C1 | C15H15NO
